US04012422
2'-[(methylsulfinyl)-acetyl]benzanilide (7 g) is refluxed in benzene containing 1 equivalent of trifluoroacetic acid for 1 hour. The solvents are removed under reduced pressure to give an oil which crystallizes on standing. Recrystallization from ethyl acetate gives 1-benzoyl-2-(methylthio)-3-indolinone (4.5 g 67%) m.p. 126°-128° C.

reactant | 2'-[(methylsulfinyl)-acetyl]benzanilide | 7 g | CS(=O)CC(=O)C1=C(NC(C2=CC=CC=C2)=O)C=CC=C1 | C16H15NO3S
reactant | benzene | 1 equivalent | C1=CC=CC=C1 | C6H6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-benzoyl-2-(methylthio)-3-indolinone | 4.5 g, 67% | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=O)SC | C16H13NO2S
